US04107441
Preparation of 4-Triphenylmethoxy-1-hexyne
A stirred solution of 9.81 g. (0.10 moles) of 4-hydroxy-1-hexyne and 33.5 g. (0.12 moles) of triphenylmethyl chloride in 100 ml. of dry pyridine is heated at reflux for 2 hours. The cooled mixture is treated with water and extracted with a hexane-ether mixture. The extract is washed successsively with water and saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. Column chromatography of the residue on Florisil gives an oil, λ mas. 3290 (acetylene hydrogen), 1600, 1030 and 705 cm-1 (triphenylmethoxy group).

reactant | 4-hydroxy-1-hexyne | 0.10 moles | OC(CC#C)CC | C6H10O
reactant | triphenylmethyl chloride | 0.12 moles | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetylene hydrogen | C#C.[H][H]
solvent | water | O | H2O
product | 4-Triphenylmethoxy-1-hexyne | C1(=CC=CC=C1)C(OC(CC#C)CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24O
